US04997836
A solution of 2,3-dimethoxy-6,7-dihydro-5H-benzocycloheptene-8-carbonyl chloride (0.53 g) in dichloromethane (8 ml) is added dropwise, while stirring at 0° C. for 3 minutes, to a mixture of ethyl 4-(3,4,5-trimethoxybenzoyl)piperazine-2-carboxylate (0.7 g), triethylamine (0.5 g) and dichloromethane (15 ml). The reaction mixture is stirred for 2 hours at room temperature, and then poured into ice-water, followed by extraction with dichloromethane. The organic layer is washed with dilute hydrochloric acid, an aqueous solution of sodium hydrogencarbonate and water, successively, and dried, then the solvent is distilled off under reduced pressure. Crystals obtained from the residue are recrystallized from ethyl acetate and hexane to give ethyl 1-(2,3-dimethoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl) -4-(3,4,5-trimethoxybenzoyl)piperazine-2-carboxylate as colorless crystals (0.9 g), m.p. 108-110° C.

reactant | 2,3-dimethoxy-6,7-dihydro-5H-benzocycloheptene-8-carbonyl chloride | 0.53 g | COC=1C(=CC2=C(C=C(CCC2)C(=O)Cl)C1)OC | C14H15ClO3
reactant | ethyl 4-(3,4,5-trimethoxybenzoyl)piperazine-2-carboxylate | 0.7 g | COC=1C=C(C(=O)N2CC(NCC2)C(=O)OCC)C=C(C1OC)OC | C17H24N2O6
reactant | triethylamine | 0.5 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | ethyl 1-(2,3-dimethoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl) -4-(3,4,5-trimethoxybenzoyl)piperazine-2-carboxylate | 0.9 g | COC=1C(=CC2=C(C=C(CCC2)C(=O)N2C(CN(CC2)C(C2=CC(=C(C(=C2)OC)OC)OC)=O)C(=O)OCC)C1)OC | C31H38N2O9
